US08003796B2
Step A. Preparation of 2-chloro-5-(3,3,3-trifluoropropyl)pyrimidine
To magnesium (1.373 g, 56.5 mmol) in a 500 mL tear-shaped flask applied vacuum then nitrogen, added 50 mL THF, added 3-bromo-1,1,1-trifluoropropane (6.02 mL, 56.5 mmol), and then 1 crystal of iodine. Within 1 minute the mixture became warm and by 5 minutes was refluxing. The mixture was cooled for 2 minutes with an ice bath to control the exothermic reaction then allowed to warm back up to rt. By 65 minutes, nearly all of the Mg had dissolved. Added zinc(II) chloride (3.85 g, 28.3 mmol) which caused a small amount of heat to be generated. Nearly all was dissolved within 10 minutes to provide ˜1.1 M of Zn(CH2CH2CF3)2 in THF. To 5-bromo-2-chloropyrimidine (7.72 g, 39.9 mmol) and bis(tri-t-butylphosphine)palladium(0) (404 mg, 0.791 mmol) applied vacuum then placed under an atmosphere of nitrogen, added 80 mL THF, and then added over ˜2 minutes 60 mL of the ˜1.1 M of Zn(CH2CH2CF3)2 in THF. The reaction was quenched after 23 hour)s with 300 mL saturated NH4Cl+300 mL EtOAc, the organic layer was then washed with 300 mL saturated NaHCO3 then 300 mL water, dried with MgSO4, filtered, then concentrated to 7.6 g brown oily solids. This material was purified by flash chromatography (0-10% EtOAc/hexanes) to yield product (3.86 g, 18.4 mmol, 46% yield) as a pale yellow solid. MS (ESI) 211.1 (M+1).

reactant | 5-bromo-2-chloropyrimidine | 39.9 mmol, 7.72 g | BrC=1C=NC(=NC1)Cl | C4H2BrClN2
reactant | Zn(CH2CH2CF3)2 | ˜1.1 M | [Zn](CCC(F)(F)F)CCC(F)(F)F
solvent | THF | C1CCOC1 | C4H8O
catalyst | bis(tri-t-butylphosphine)palladium(0) | 0.791 mmol, 404 mg | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
solvent | THF | 80 mL | C1CCOC1 | C4H8O
product | 2-chloro-5-(3,3,3-trifluoropropyl)pyrimidine | 18.4 mmol, 3.86 g, 46% yield | ClC1=NC=C(C=N1)CCC(F)(F)F | C7H6ClF3N2
